US06699852B2
(7bR,11aS)-N-(2,4-dichlorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indol-6-amine
An oven dried three-necked round bottom flask was fitted with septa, condenser, and a stopper. The flask was charged with tert-butyl (7bR,11aS)-6-amino-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate (134 mg, 0.36 mmol), 1-bromo-2,4-dichlorobenzene (70 mg, 0.31 mmol), NaOtBu (60 mg, 0.62 mmol), and anhydrous toluene (5 mL). The solution was purged with argon at 80° C. for 25 min then cooled to room temperature. While maintaining a blanket of argon, Pd2(dba)3 (3.4 mg, 3.7 μmol), and BINAP (7 mg, 11.2 μmol) were added quickly. The resulting mixture was heated to 80° C. for 20 hours under argon while monitoring the consumption of starting material by TLC (50% ethyl acetate/hexanes). After cooling to room temperature, the dark solution was diluted with ethyl ether (10 mL) and filtered through a pad of silica, washing with ether and ethyl acetate. The resulting solution was concentrated and chromatographed (Combiflash, 95:5 to 75:25 hexanes/ethyl acetate gradient) yielding the title compound (78 mg, 48%) as a tan solid. 1H NMR(CDCl3, 300 MHz) δ 1.41 (s, 9H), 1.79-1.97 (m, 2H), 2.85-3.18 (m, 6H), 3.46-3.61 (m, 4H), 3.68 (s, 2H), 5.84 (s, 1H), 6.71 (d, 1H, J=1.9 Hz), 6.79 (d, 1H, J=1.8 Hz), 6.89 (d, 1H, J=8.8 Hz), 7.01 (dd, 1H, J=2.3, 8.8 Hz), 7.29 (d, 1H, J=2.3 Hz) ppm.

reactant | tert-butyl (7bR,11aS)-6-amino-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate | 0.36 mmol, 134 mg | NC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCN(C3)C(=O)OC(C)(C)C | C19H27N3O2S
reactant | 1-bromo-2,4-dichlorobenzene | 0.31 mmol, 70 mg | BrC1=C(C=C(C=C1)Cl)Cl | C6H3BrCl2
reactant | NaOtBu | 0.62 mmol, 60 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 3.7 μmol, 3.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 11.2 μmol, 7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (7bR,11aS)-N-(2,4-dichlorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indol-6-amine | 78 mg, 48% | ClC1=C(C=CC(=C1)Cl)NC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCNC3 | C20H21Cl2N3S
